US08563617B2
11.2 N-(2-(7-Amino-8-(3,4-dichlorobenzyl)-5,6,7,8-tetrahydronaphthalen-2-yloxy)ethyl)-N-methylpropane-1-sulfonamide hydrochloride
NaH (3.38 mg, 0.078 mmol, 55% in oil) was suspended in DMA (5 ml) and N-(1-(3,4-dichlorobenzyl)-7-(2-(propylsulfonamido)ethoxy)-1,2,3,4-tetrahydronaphthalen-2-yl)-2,2,2-trifluoroacetamide (40 mg, 0.07 mmol) dissolved in DMA (4 ml) was added dropwise. After stirring for 1 h iodomethane (10.5 mg, 0.074 mmol) dissolved in DMA (1 ml) was added. After stirring for another 14 h the reaction mixture was added to a halfconcentrated solution of NaCl. Extraction with ethyl acetate, washing of the organic layers with water and saturated NaCl solution followed by drying with Na2SO4 gave a residue that was washed with diisopropyl ether. Cleavage of the amide bond was achieved by stirring the residue with concentrated NaOH in water and subsequent extraction with ethyl acetate. The organic layer was dried with MgSO4 and evaporated. The residue was purified by preparative HPLC (RP-18, acetonitrile/water, 0.01% TFA). After transferring the product into the HCl salt a yellow solid (11.0 mg, 0.021 mmol, 30%) was obtained.

reactant | NaH | 0.078 mmol, 3.38 mg | [H-].[Na+]
reactant | N-(1-(3,4-dichlorobenzyl)-7-(2-(propylsulfonamido)ethoxy)-1,2,3,4-tetrahydronaphthalen-2-yl)-2,2,2-trifluoroacetamide | 0.07 mmol, 40 mg | ClC=1C=C(CC2C(CCC3=CC=C(C=C23)OCCNS(=O)(=O)CCC)NC(C(F)(F)F)=O)C=CC1Cl | C24H27Cl2F3N2O4S
reactant | iodomethane | 0.074 mmol, 10.5 mg | IC | CH3I
reactant | NaCl | [Na+].[Cl-]
solvent | DMA | 5 ml | CC(=O)N(C)C | C4H9NO
solvent | DMA | 4 ml | CC(=O)N(C)C | C4H9NO
solvent | DMA | 1 ml | CC(=O)N(C)C | C4H9NO
product | N-(2-(7-Amino-8-(3,4-dichlorobenzyl)-5,6,7,8-tetrahydronaphthalen-2-yloxy)ethyl)-N-methylpropane-1-sulfonamide hydrochloride | Cl.NC1CCC=2C=CC(=CC2C1CC1=CC(=C(C=C1)Cl)Cl)OCCN(S(=O)(=O)CCC)C | InChI=1S/C23H30Cl2N2O3S.ClH/c1-3-12-31(28,29)27(2)10-11-30-18-7-5-17-6-9-23(26)20(19(17)15-18)13-16-4-8-21(24)22(25)14-16;/h4-5,7-8,14-15,20,23H,3,6,9-13,26H2,1-2H3;1H
